US05691335
Synthesis of 1-(3-chlorophenyl)-3-(2-naphthylsulfonyl)imidazolidin-2,4-dione (Compound 72):
In accordance with the synthesis process (B), 1.0 g (81%, 3.49 mmol) of 2-naphthalenesulfonyl isocyanate was added to a solution of 647 mg (3.49 mmol) of N-3-chlorophenylaminoacetic acid in 50 ml of tetrahydrofuran at room temperature, and the resultant mixture was stirred for 16 hours. After completion of the reaction, the liquid reaction mixture was cooled to 0° C. and added with 881 mg (8.72 mmol) of triethylamine and 417 mg (3.84 mmol) of ethyl chloroacetate, followed by stirring at 0° C. for 1 hour. After completion of the reaction, the liquid reaction mixture was added with 20 ml of 1N hydrochloric acid and 30 ml of saturated saline and subjected to extraction with ethyl acetate. After washing the resultant extract with water, it was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The thus-obtained crude product was purified by column chromatography on silica gel (hexane/ethyl acetate=3:1) and subjected to crystallization from hexane/ethyl acetate, thereby obtaining 324 mg (0.81 mmol) of the title compound as white crystals (yield: 23.2%).

reactant | 2-naphthalenesulfonyl isocyanate | 3.49 mmol, 1.0 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N=C=O | C11H7NO3S
reactant | N-3-chlorophenylaminoacetic acid | 3.49 mmol, 647 mg | ClC=1C=C(C=CC1)NCC(=O)O | C8H8ClNO2
reactant | triethylamine | 8.72 mmol, 881 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroacetate | 3.84 mmol, 417 mg | ClCC(=O)OCC | C4H7ClO2
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(3-chlorophenyl)-3-(2-naphthylsulfonyl)imidazolidin-2,4-dione | 0.81 mmol, 324 mg, yield: 23.2% | ClC=1C=C(C=CC1)N1C(N(C(C1)=O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C19H13ClN2O4S
